US04470928
Then, 29.1 g (0.199 mole) of adipic acid and 21.0 g (0.194 mole) of adiponitrile were added to the liquid distillation residue, and the resulting mixture was introduced into a 1-liter, stainless autoclave. after purging with nitrogen, the content was stirred at 240° C. for 3 hours. After cooling the reaction mixture, 138.0 g (3.000 moles) of ethanol was added and the resulting mixture was stirred at 190° C. for 3 hours. As a result of analysis, it was confirmed that 60.3 g (0.389 mole) of ethyl cyanovalerate and 1.2 g (0.006 mole) of diethyl adipate were formed.

reactant | adipic acid | 0.199 mole, 29.1 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | adiponitrile | 0.194 mole, 21.0 g | C(CCCCC#N)#N | C6H8N2
reactant | ethanol | 3.000 moles, 138.0 g | C(C)O | C2H6O
reactant | ethyl cyanovalerate | 0.389 mole, 60.3 g | C(#N)C(C(=O)OCC)CCC | C8H13NO2
product | diethyl adipate | 0.006 mole, 1.2 g | C(CCCCC(=O)OCC)(=O)OCC | C10H18O4
